Relaxation oscillator
* ST AN4071, Fig. 26
* www.st.com/resource/en/application_note/dm00050759.pdf

.include Opamps_Comparators_ST.lib
XICOMP2  VM1  VP1  VS1  VCCP VCCN TS302X
* http://www.st.com/resource/en/cad_symbol_library/opamps_comparators_st.zip

vdd vccp 0 5
vss vccn 0 0

R1 vs1 vm1 10k
R2 vp1 0 10k
R3 vp1 vccp 10k
R4 vs1 vp1 10k

C1 vm1 0 1n

.tran 100n 500u uic

.option rshunt=1e12

.control
save  vs1 vm1 vp1
run
rusage time
plot vs1 vm1 vp1
linearize vs1
fft vs1
plot mag(vs1) xlimit 1k 100k
.endc

.end
